********************************************************************************************************
*
* Nexperia BUK6Y10-30P
* Polarity P - Channel
* Ratings 30V/8.0mOhm/80A
* Revision N#: 2.0
* Created on 2020-12-23 17:24:00
* Please visit www.nexperia.com for latest revision release
*
********************************************************************************************************
*
* Model generated by Nexperia
* Copyright(c) 2018
* All rights reserved
*
* Contains proprietary information which is the property of Nexperia.
*
********************************************************************************************************

.SUBCKT BUK6Y10-30P D G S

* Package impedance
LD D 5 30.00p
RLD2 D 5 75.40m
RLD1 5 4 6.000u
LG G 1 1.509n
RLG G 1 3.792
LS S 8 800.0p
RLS2 S 8 2.011
RLS1 8 7 620.0u

* Drain,gate and source resistances
RD 3 4 3.872m TC= 1.333m,1.020n
RG 1 20 15.800
Don 2 20 D_DBD
Rgoff 1 2 210
RS 6 7 1.000u

* Body Diode
RBD 9 4 3.454m TC= 4.000m,23.00u
DBD 9 7 D_DBD
RDS 7 4 8.380G TC= -5.000m

* Internal MOS
M1 3 2 6 6 MINT

* Gate leakage and gate capacitance
RGS 2 6 168.1G
CGS 2 6 209.0p

* CGD
C11 11 12 1E-12
V11 11 0 0Vdc
G11 2 3 VALUE {V(13,0)*I(V11)}
E11 12 0 2 3 1
E12 13 0 TABLE {V(12)}
+ (-10.0,3758.0)
+ (-3.4,3758.0)
+ (0.01,90.65)
+ (0.1,86.86)
+ (0.2,82.58)
+ (0.5,72.78)
+ (1.0,61.99)
+ (2.0,50.9)
+ (3.0,44.95)
+ (4.0,41.03)
+ (5.0,38.16)
+ (6.0,35.94)
+ (8.0,32.69)
+ (10.0,30.36)
+ (12.0,28.6)
+ (15.0,26.62)
+ (20.0,24.37)
+ (24.0,23.12)
+ (30.0,21.77)

.MODEL MINT PMOS Vto= -2.567 Kp= 39.28 Nfs= 618.9G Eta= 0.000
+ Level= 3 Gamma= 0.000 Phi= 600.0m Is= 1.000E-24 UO= 600.0
+ Js= 0.000 Pb= 800.0m Cj= 0.000 Cjsw= 0.000 Cgso= 0.000 Cgdo= 0.000 Cgbo= 0.000
+ Tox= 100.0n Xj= 0.000
+ Vmax= 10.00K

.MODEL D_DBD D Bv= 36.70 Ibv= 250.0u Rs= 1.000u Is= 2.171p
+ N= 1.000 M= 389.8m VJ= 535.7m Fc= 500.0m Cjo= 175.4p Tt= 18.50n

.ENDS BUK6Y10-30P

********************************************************************************************************
* - Limited warranty and liability -
*
* Information in this document is believed to be accurate and reliable. However,Nexperia does not give
* any representations or warranties,expressed or implied,as to the accuracy or completeness of such
* information and shall have no liability for the consequences of use of such information.
* Nexperia takes no responsibility for the content in this document if provided by an information source
* outside of Nexperia. In no event shall Nexperia be liable for any indirect,incidental,punitive,
* special or consequential damages (including - without limitation - lost profits,lost savings,
* business interruption,costs related to the removal or replacement of any products or rework charges)
* whether or not such damages are based on tort (including negligence),warranty,breach of contract or
* any other legal theory. Notwithstanding any damages that customer might incur for any reason whatsoever,
* Nexperia's aggregate and cumulative liability towards customer for the products described herein shall
* be limited in accordance with the Terms and conditions of commercial sale of Nexperia.
*
********************************************************************************************************