*Part: BUK6Y10-30P

.subckt cauer 1 5 6
R1	1	2	0.00853483
R2	2	3	0.0797572
R3	3	4	0.560327
R4	4	5	0.751382
C1	1	6	2.87858e-05
C2	2	6	0.000175366
C3	3	6	0.0013415
C4	4	6	0.00722676
.end cauer