*Part: BUK6Y10-30P

.subckt foster 1 5 
R1	1	2	0.965245
R2	2	3	0.366924
R3	3	4	0.00625683
R4	4	5	0.0615742
C1	1	2	0.00700599
C2	2	3	0.00190009
C3	3	4	3.36569e-05
C4	4	5	0.000229424
.end foster